US03979396
2.12 g (0.0060 moles) of 3-acetamido-4-carboxy-2,5-dihydro-2-thiophenevaleric acid piperidide was dissolved in 25 ml acetone to which 1.3 ml water had been added, and the solution was cooled in an ice bath for 15 min. At this point 1.8 ml (.0063 mole) of triethylamine was added in 25 ml acetone, followed immediately by the dropwise addition of 1.23 ml. (0.0063 mole) of ethyl chloroformate in 2.7 ml of acetone over a 10 minute period. The reaction was stirred at 0°C. for one hour to form 3-acetamido-4-carbethoxycarbonyl-2,5-dihydro-2-thiophenevaleric acid piperidide, which was converted to 3-(N-carbethoxyacetamido)-4-carboxy-2,5-dihydro-2-thiophenevaleric acid piperidide, and which was converted to 3-(N-carbethoxyacetamido)-4-carbethoxycarbonyl-2,5-dihydro-2-thiophenevaleric acid piperidide. A solution of 0.8 g. (0.0063 mole) sodium azide in 5 ml. water was added dropwise over a period of 5 minutes. The reaction was further stirred at 0° C. for 2 hrs. The reaction mixture was then partitioned between 100 ml. of dichloromethane and 75 ml. of ice water. The aqueous phase was extracted three times with anhydrous sodium sulfate to yield 2.8 g. (0.0060 mole, 100%) of 4-azidocarbonyl-3-(N-carbethoxyacetamido)-2,5-dihydro-2-thiophenevaleric acid piperidide as a colorless oil.

reactant | 3-acetamido-4-carboxy-2,5-dihydro-2-thiophenevaleric acid piperidide | 0.0060 moles, 2.12 g | C(C)(=O)NC=1C(SCC1C(=O)O)CCCCC(=O)N1CCCCC1 | C17H26N2O4S
reactant | triethylamine | .0063 mole, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.0063 mole | ClC(=O)OCC | C3H5ClO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 1.3 ml | O | H2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 2.7 ml | CC(=O)C | C3H6O
product | 3-acetamido-4-carbethoxycarbonyl-2,5-dihydro-2-thiophenevaleric acid piperidide | C(C)(=O)NC=1C(SCC1C(=O)C(=O)OCC)CCCCC(=O)N1CCCCC1 | C20H30N2O5S
